US03931235
3(2,4Dichlorobenzylthio)-4-hydroxy-6-methyl-2-pyrone
4-Hydroxy-3-mercapto-6-methyl-2-pyrone (47.5 g., 0.300 mole) and α2,4-trichlorotoluene (58.6 g., 0.300 mole) were dissolved in pyridine (250 ml.). The temperature rose from 20° to 43°C. The solution was then heated at 90°C. for two hours, cooled and poured onto ice and 500 ml. of concd. hydrochloric acid. The resulting mixture was extracted with methylene chloride. The extract was dried (MgSO4) and the solvent removed by evaporation. The residue was mixed with hexane, filtered and dried, giving 53.3 g. (56 percent) of the desired product. Recrystallization from benzene gave the pure product as a white solid, m.p. 163°-164°C.

reactant | 4-Hydroxy-3-mercapto-6-methyl-2-pyrone | 0.300 mole, 47.5 g | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | α2,4-trichlorotoluene | 0.300 mole, 58.6 g | C1=CC(=C(C=C1Cl)Cl)CCl | C7H5Cl3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 3(2,4Dichlorobenzylthio)-4-hydroxy-6-methyl-2-pyrone | 56 percent | ClC1=C(CSC=2C(OC(=CC2O)C)=O)C=CC(=C1)Cl | C13H10Cl2O3S
